US03954865
A solution of 52.5 g of titanium tetrachloride in 300 ml of anhydrous benzene is added slowly, under nitrogen, to a stirred, cooled (ice-bath) mixture of 100 g of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one, 103 g of methylamine and 1200 ml of anhydrous benzene. After stirring at room temperature for 12 days the mixture is cooled, treated with concentrated aqueous sodium bicarbonate solution and filtered through Celite. The layers of the filtrate are separated, and the benzene layer is dried with magnesium sulfate. Removal of the solvent and crystallization of the residue from 200 ml of hexane gives 95.6 g (88% yield) of N-methyl-10,11-dihydro5H-dibenzo[a,d]cyclohepten-5-imine, mp 89°-90°. An analytical sample (hexane) also had mp 89°-90°. Nmr spectrum (in CDCl3): multiplets at τ 2.3-3.2 (8H) and 6.8-7.2 (4H) and singlet at 6.7 (3H).

reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 100 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C15H12O
reactant | methylamine | 103 g | CN | CH5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 52.5 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | benzene | 1200 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-10,11-dihydro5H-dibenzo[a,d]cyclohepten-5-imine | 95.6 g, 88% yield | CN=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H15N
